US07141669B2
Preparation of 3-(4-Butylphenyl)-2-(2-chlorophenyl)-5-methyl-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one (8A-1)
A mixture of 3-(4-bromophenyl)-2-(2-chlorophenyl)-5-methyl-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one (4A-9, 48.4 mg, 0.1 mmol), 1-butane boronic acid (12 mg, 0.12 mmol), K2CO3 (41 mg, 0.3 mmol), PdCl2dppf.CH2Cl2 (8 mg, 0.01 mmol) in THF (2 ml) was heated at 65° C. for 18 h. The reaction mixture was cooled to room temperature, diluted with H2O, and extracted with EtOAc (2×). The combined extracts were washed with 0.5 M citric acid, saturated aqueous NaCl, dried, and concentrated under vacuum. The crude residue was purified on a Chromatotron using 1 mm plates and 25% EtOAc/hexanes as a solvent to give 8A-1 (16 mg): MS (m/z) 475.5 (M+H)+; 1H NMR (400MHz, CDCl3): δ 7.53–7.49 (m, 1H), 7.47–7.36 (m, 3H), 7.31 (d, J=8.3 Hz, 2H), 7.12 (d, J=8.3 Hz, 2H), 4.98–4.78 (br m, 2H), 2.60 (s, 3H), 2.56 (t, J=7.5 Hz, 2H), 1.6–1.5 (m, 2H), 1.36–1.27 (m, 2H), 0.89 (t, J=7.5 Hz, 3H).

reactant | 3-(4-bromophenyl)-2-(2-chlorophenyl)-5-methyl-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one | BrC1=CC=C(C=C1)C=1N(N=C2C1N=C(N(C2=O)CC(F)(F)F)C)C2=C(C=CC=C2)Cl | C20H13BrClF3N4O
reactant | 1-butane boronic acid | 0.12 mmol, 12 mg | C(CCC)B(O)O | C4H11BO2
reactant | K2CO3 | 0.3 mmol, 41 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 0.01 mmol, 8 mg | C(Cl)Cl | CH2Cl2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 3-(4-Butylphenyl)-2-(2-chlorophenyl)-5-methyl-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one | C(CCC)C1=CC=C(C=C1)C=1N(N=C2C1N=C(N(C2=O)CC(F)(F)F)C)C2=C(C=CC=C2)Cl | C24H22ClF3N4O
